US04540695
To a mixture of 9-amino-9-acetyl-6,7,11-trihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione hydrochloride (550 mg) and anhydrous pyridine (10 ml), acetic anhydride (3 ml) was added thereto while cooling with ice water. The resultant mixture was heated at a temperature of 60° to 65° C. for 30 minutes. The reaction mixture was poured into 3% hydrochloric acid and extracted with chloroform. The chloroform extract was washed with water, a saturated sodium bicarbonate solution and water in order, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by chromatography to give 9-acetyl-9-acetamino-6,7,11-triacetoxy-7,8,9,10-tetrahydro-5,12-naphthacenedione. M.P., 276°-278° C.

reactant | 9-amino-9-acetyl-6,7,11-trihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione hydrochloride | 550 mg | Cl.NC1(CC(C=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O)C(C)=O
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 9-acetyl-9-acetamino-6,7,11-triacetoxy-7,8,9,10-tetrahydro-5,12-naphthacenedione | C(C)(=O)C1(CC(C=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)OC(C)=O)=O)=O)OC(C)=O)OC(C)=O)NC(=O)C | C28H25NO10
